US07485637B2
3-[4-(4-Chloro-phenyl)-3,6-dihydro-2H-pyridine-1-carbonyl]-4-isopropoxy-benzonitrile
According to the procedure described for the synthesis of example 4, step f, the title compound has been synthesized from 5-cyano-2-isopropoxy-benzoic acid (CAS: 845616-14-0) and 4-(4-chloro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride (commercial). MS (m/e): 381.1 (MH+, 100%).

reactant | 5-cyano-2-isopropoxy-benzoic acid | C(#N)C=1C=CC(=C(C(=O)O)C1)OC(C)C | C11H11NO3
reactant | 4-(4-chloro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride | Cl.ClC1=CC=C(C=C1)C=1CCNCC1
product | 3-[4-(4-Chloro-phenyl)-3,6-dihydro-2H-pyridine-1-carbonyl]-4-isopropoxy-benzonitrile | ClC1=CC=C(C=C1)C=1CCN(CC1)C(=O)C=1C=C(C#N)C=CC1OC(C)C | C22H21ClN2O2
